* LCC-LCC @ 6.78MHz  Vin=288Vrms  RL=50ohm  out~158V/3.2A
Vin S 0 SINE(0 407.4 6780000)
* --- primary LCC ---
Lf1 S  P1 3.621e-07
Cf1 P1 0  1.447e-09
C1  P1 T1 3.562e-10
* Tx coil (L+R1)//Cself//R2
Ctx T1 0  6.89e-12
R2t T1 0  2.381e+05
R1t T1 Tm 0.03002
Ltx Tm 0  1.865e-06
* Rx coil
Crx Rn 0  1.268e-11
R2r Rn 0  4.608e+05
R1r Rn Rm 0.06957
Lrx Rm 0  3.18e-06
* --- secondary LCC ---
C2  Rn P2 1.77e-10
Cf2 P2 0  1.741e-09
Lf2 P2 Lo 3.165e-07
RL  Lo 0  50
K1  Ltx Lrx 0.0239
.ac lin 401 6237600 7322400
.end